US20010021718A1
(3R)-3-{3-[(2-Amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexyl-N-hydroxyhexanamide
A solution of (3R)-3-{3-[(2-amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}6-cyclohexylhexanoic acid (Preparation 91) (178 mg, 0.50 mmol) and N-methylmorpholine (1001 μl, 0.91 mmol) in anhydrous tetrahydrofuran (8 ml) was cooled to 0° C., treated with isobutyl chloroformate (70 μl, 0.54 mmol) and stirred under a nitrogen atmosphere for 2.5 hours. O-(Trimethylsilyl)hydroxylamine (200 μl, 1.63 mmol) was added and the mixture was stirred for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol and stirred at room temperature for 1 hour. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a gradient system of 98:2 (dichloromethane:methanol) gradually changing to 90:10 (dichloromethane:methanol) and then neat methanol to afford the title compound as a colourless oil (60 mg).

reactant | (3R)-3-{3-[(2-amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}6-cyclohexylhexanoic acid | 0.50 mmol, 178 mg | NC(COCC1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1)=O | C17H27N3O5
reactant | N-methylmorpholine | 0.91 mmol, 1001 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.54 mmol, 70 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 1.63 mmol, 200 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | (3R)-3-{3-[(2-Amino-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}-6-cyclohexyl-N-hydroxyhexanamide | 60 mg | NC(COCC1=NOC(=N1)[C@@H](CC(=O)NO)CCCC1CCCCC1)=O | C17H28N4O5
